US08309546B2
Step 1: 5-[9-(Cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]-N-methylpyrimidin-2-amine
Sodium carbonate (2.40 g, 22.7 mmol) and tetrakis triphenylphosphine palladium (0.44 g, 0.38 mmol) were added to a 1,4-dioxane (44.0 ml)-water (22.0 ml) mixture solution of 2-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purine (2.22 g, 7.56 mmol) and 2-methylaminopyrimidine-5-boronic acid pinacol ester (2.31 g, 9.82 mmol) at room temperature and the resulting mixture was heated to reflux for 3.5 hours in an argon atmosphere. The reaction mixture was left standing to cool and then poured into water and ethyl acetate was added to separate the layers. The solid precipitated in the aqueous layer was collected by filtration, washed with water, and then dried at 50° C. under reduced pressure. Meanwhile, the organic layer was dried over anhydrous sodium sulfate, the mixture was filtrated, then the filtrate was concentrated under reduced pressure, and the resulting solid was washed with dichloromethane and collected by filtration. These solids were combined to give the title compound (1.68 g, 61%) as a white solid.

reactant | Sodium carbonate | 22.7 mmol, 2.40 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-dioxane | 44.0 ml | O1CCOCC1 | C4H8O2
reactant | 2-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purine | 7.56 mmol, 2.22 g | ClC1=NC(=C2N=CN(C2=N1)CC1CC1)N1CCOCC1 | C13H16ClN5O
reactant | 2-methylaminopyrimidine-5-boronic acid pinacol ester | 9.82 mmol, 2.31 g | CNC1=NC=C(C=N1)B1OC(C)(C)C(C)(C)O1 | C11H18BN3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | water | 22.0 ml | O | H2O
product | 5-[9-(Cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]-N-methylpyrimidin-2-amine | 1.68 g, 61% | C1(CC1)CN1C2=NC(=NC(=C2N=C1)N1CCOCC1)C=1C=NC(=NC1)NC | C18H22N8O
